### PR TITLE
[Merged by Bors] - feat(FieldTheory/IntermediateField): generalize `eq_of_le_of_finrank_{le|eq}`

### PR DESCRIPTION
**Pull request by acmepjz**
- generalize `IntermediateField.eq_of_le_of_finrank_{le|eq}`: the condition `FiniteDimensional K L` is generalized to `FiniteDimensional K E` (credits: @riccardobrasca)
- generalize `IntermediateField.eq_of_le_of_finrank_{le|eq}'`: the condition `FiniteDimensional K L` is generalized to `FiniteDimensional F L` (original proof credits: @riccardobrasca)
- add `Subalgebra.eq_of_le_of_finrank_{le|eq}`
- add `IntermediateField.extendScalars` and its basic properties

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by riccardobrasca** [comment]
Since we have the version for submodules, and you go through subalgebras and then submodules. I guess we should have also a version for subalgebras.

**Comment by acmepjz** [comment]
> Since we have the version for submodules, and you go through subalgebras and then submodules. I guess we should have also a version for subalgebras.

Currently there is even no `eq_of_le_of_finrank_{le|eq}` for subalgebras in mathlib yet. Which file should I add them to?

File: Mathlib/FieldTheory/IntermediateField.lean [hunk 1]
```diff
@@ -707,17 +707,19 @@ theorem toSubalgebra_eq_iff : F.toSubalgebra = E.toSubalgebra ↔ F = E := by
...
+    Subalgebra.toSubmodule.injective <| FiniteDimensional.eq_of_le_of_finrank_le h_le h_finrank
 #align intermediate_field.eq_of_le_of_finrank_le IntermediateField.eq_of_le_of_finrank_le
 
-theorem eq_of_le_of_finrank_eq [FiniteDimensional K L] (h_le : F ≤ E)
+theorem eq_of_le_of_finrank_eq [FiniteDimensional K E] (h_le : F ≤ E)
     (h_finrank : finrank K F = finrank K E) : F = E :=
   eq_of_le_of_finrank_le h_le h_finrank.ge
 #align intermediate_field.eq_of_le_of_finrank_eq IntermediateField.eq_of_le_of_finrank_eq
 
+-- TODO: generalize `FiniteDimensional K L` to `FiniteDimensional F L` (not so easy)
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/IntermediateField.lean:722]:
```lean
theorem eq_of_le_of_finrank_le'' [FiniteDimensional F L] (h_le : F ≤ E)
    (h_finrank : finrank F L ≤ finrank E L) : F = E := by
  refine le_antisymm h_le ?_
  intro l hl
  let E₁ : IntermediateField F L := Subfield.toIntermediateField E.toSubfield <|
    fun ⟨f, hf⟩ => h_le hf
  let F₁ : IntermediateField F L := Subfield.toIntermediateField F.toSubfield <|
    fun ⟨_, hf⟩ => hf
  replace h_le : F₁ ≤ E₁ := fun f hf => h_le hf
  show l ∈ F₁
  rw [eq_of_le_of_finrank_le' h_le h_finrank]
  exact hl
```
is not very elegant but it works.

Comment (acmepjz) [reply Mathlib/FieldTheory/IntermediateField.lean:722]: > What we probably want in general is the function that turns `E` with the condition `F ≤ E` into a `IntermediateField F L`. (It is the line `let E₁ ...` in my code.)

What about `IntermediateField.of_inclusion`? or `of_le`?

Comment (riccardobrasca) [reply Mathlib/FieldTheory/IntermediateField.lean:722]: I think something like `[extendScalars](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/AlgebraTower.html#AlgHom.extendScalars)` is nice, but I am not sure.

Comment (acmepjz) [reply Mathlib/FieldTheory/IntermediateField.lean]: I added `extendScalars` and it greatly simplifies the proof. 😂

File: Mathlib/FieldTheory/IntermediateField.lean [hunk 2]
```diff
@@ -707,27 +744,34 @@ theorem toSubalgebra_eq_iff : F.toSubalgebra = E.toSubalgebra ↔ F = E := by
...
     (h_finrank : finrank K F = finrank K E) : F = E :=
   eq_of_le_of_finrank_le h_le h_finrank.ge
 #align intermediate_field.eq_of_le_of_finrank_eq IntermediateField.eq_of_le_of_finrank_eq
 
-theorem eq_of_le_of_finrank_le' [FiniteDimensional K L] (h_le : F ≤ E)
+theorem eq_of_le_of_finrank_le' [FiniteDimensional F L] (h_le : F ≤ E)
     (h_finrank : finrank F L ≤ finrank E L) : F = E := by
+  -- can't use `wlog` because the universe level mismatch
+  -- and we have to use `Type _` because it complains about universe level mismatch for `Type*`
+  suffices H {K L : Type _} [Field K] [Field L] [Algebra K L] {F E : IntermediateField K L}
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/IntermediateField.lean:762]: I think this `suffice` can be a separate lemma (as it was yesterday I think), the name can be the same with `''` or something like that. Also, can you add a docstring mentioning the difference between the various `eq_of_le_of_finrank_le`?

File: Mathlib/FieldTheory/IntermediateField.lean [hunk 3]
```diff
@@ -675,6 +675,43 @@ end RestrictScalars
...
+@[simp]
+theorem extendScalars_restrictScalars : (extendScalars h).restrictScalars K = E := rfl
+
+theorem extendScalars_le_extendScalars_iff : extendScalars h ≤ extendScalars h' ↔ E ≤ E' := by rfl
+
+theorem extendScalars_le_iff (E' : IntermediateField F L) :
+    extendScalars h ≤ E' ↔ E ≤ E'.restrictScalars K := by rfl
+
+theorem le_extendScalars_iff (E' : IntermediateField F L) :
+    E' ≤ extendScalars h ↔ E'.restrictScalars K ≤ E := by rfl
```
Comment (alreadydone) [inline Mathlib/FieldTheory/IntermediateField.lean:705]: These could be `Iff.rfl`s.

File: Mathlib/FieldTheory/IntermediateField.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/IntermediateField.lean:762]: I tried to begin with
```
  Subtype.ext_iff.mp <| extendScalars_injective (a₁ := ⟨F, le_rfl⟩) (a₂ := ⟨E, h_le⟩) <|
    eq_of_le_of_finrank_le h_le <| by
      dsimp only
      let E' := extendScalars h_le
      have h1 := finrank_mul_finrank F E' L
```
but Lean complains it can't find `Algebra F E'` so some instance reminders would be necessary. Maybe you could keep the old instance as an unnamed private instance, and then the proof of this new version would be just three lines.

**Review by alreadydone — APPROVED** [review]

File: Mathlib/FieldTheory/IntermediateField.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/IntermediateField.lean:705]: Yes, but `by rfl` has one character less than `Iff.rfl` 🤣

File: Mathlib/FieldTheory/IntermediateField.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/IntermediateField.lean:762]: I renamed the original `eq_of_le_of_finrank_le'` to `private theorem eq_of_le_of_finrank_le''` and only leave the new `eq_of_le_of_finrank_le'` as a public function.

File: Mathlib/FieldTheory/IntermediateField.lean [hunk 4]
```diff
@@ -675,6 +675,43 @@ end RestrictScalars
...
+
+variable (F)
+
+theorem extendScalars_injective :
+    Function.Injective fun E : { E : IntermediateField K L // F ≤ E } ↦ extendScalars E.2 :=
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/IntermediateField.lean:710]: I think it's a good idea.

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 5]
```diff
@@ -838,6 +838,8 @@ section DivisionRing
 variable [DivisionRing K] [AddCommGroup V] [Module K V] {V₂ : Type v'} [AddCommGroup V₂]
   [Module K V₂]
 
+/-- If a submodule is less than or equal to a finite-dimensional
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:841]: This is the natural language that corresponds to the Lean code:
```suggestion
/-- If a submodule is contained in a finite-dimensional
```
(same below: 3 occurrences total)

File: Mathlib/FieldTheory/IntermediateField.lean [hunk 6]
```diff
@@ -675,6 +675,56 @@ end RestrictScalars
...
+theorem extendScalars_le_iff (E' : IntermediateField F L) :
+    extendScalars h ≤ E' ↔ E ≤ E'.restrictScalars K := Iff.rfl
+
+theorem le_extendScalars_iff (E' : IntermediateField F L) :
+    E' ≤ extendScalars h ↔ E'.restrictScalars K ≤ E := Iff.rfl
+
+variable (F)
+
+theorem extendScalars_injective :
+    Function.Injective fun E : { E : IntermediateField K L // F ≤ E } ↦ extendScalars E.2 :=
```
Comment (alreadydone) [inline Mathlib/FieldTheory/IntermediateField.lean:710]: This is now a consequence of the OrderIso below.

**Review by alreadydone — APPROVED** [review]

File: Mathlib/FieldTheory/IntermediateField.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/IntermediateField.lean:710]: OK. Let me see how to use `OrderIso` to prove it.

Comment (alreadydone) [reply Mathlib/FieldTheory/IntermediateField.lean:710]: there's [OrderIso.injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Hom/Basic.html#OrderIso.injective)

Comment (alreadydone) [reply Mathlib/FieldTheory/IntermediateField.lean:710]: It's up to you! You have to write `(extendScalars.orderIso F).injective` so `extendScalars_injective` can be more convenient, and it can be directly `apply`'d.

Comment (acmepjz) [reply Mathlib/FieldTheory/IntermediateField.lean:710]: OK. Maybe I should leave `extendScalars_injective` here, parallel to `restrictScalars_injective`.

**Review by alreadydone — APPROVED** [review]
Thanks
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
